US04853389
Step (5) Preparation of 2-[[(Dimethylamino)methylene]amino]-4-hydroxy-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide
Dimethylformamide dimethyl acetal (304 mL, 2.28M) was added to a suspension of 2-amino-4-hydroxy-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide (304 g, 1.23M) in DMF (3000 mL). Stirring was continued for 1/2 hour after precipitate formation and then the reaction slurry was concentrated in vacuo. Trituration of the resulting white solid with ether afforded the desired compound (362 g, yield 97%, m.p. 258°-261° C.). The compound was dried in vacuo at 40° C. for 16 hours.

reactant | Dimethylformamide dimethyl acetal | 2.28M, 304 mL | COC(N(C)C)OC | C5H13NO2
reactant | 2-amino-4-hydroxy-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide | 1.23M, 304 g | NC1=NC=C(C(=N1)O)S(=O)(=O)NC(C)(C)C | C8H14N4O3S
reactant | ether | CCOCC | C4H10O
solvent | DMF | 3000 mL | CN(C)C=O | C3H7NO
product | 2-[[(Dimethylamino)methylene]amino]-4-hydroxy-N-(1,1-dimethylethyl)-5-pyrimidinesulfonamide | 362 g, yield 97% | CN(C)C=NC1=NC=C(C(=N1)O)S(=O)(=O)NC(C)(C)C | C11H19N5O3S
